US09382188B2
I) 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpicolinealdehyde
To a solution of (5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)methanol (2.90 g) and triethylamine (13.3 mL) in DMSO (45 mL) was added sulfur trioxide pyridine complex (6.08 g), and the mixture was stirred at room temperature for 10 min. Water was added to the reaction mixture at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. After silica gel filtration, the solvent was evaporated under reduced pressure to give the title compound (2.69 g) as a yellow oil.

reactant | (5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)methanol | 2.90 g | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)CO | C18H22FNO2
reactant | triethylamine | 13.3 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
product | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpicolinealdehyde | 2.69 g | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)C=O | C18H20FNO2
